US08067448B2
4-((1R,2R)-2-(tert-butyldimethylsilyloxy)-1-(5-phenyl-1,3,4-thiadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile
To a 25-mL round bottom flask charged with a solution of N′-((2R,3R)-3-(tert-butyldimethylsilyloxy)-2-(3-chloro-4-cyano-2-methylphenylamino)butanoyl)-benzohydrazide (326 mg, 0.65 mmol) in dry THF (10 mL) and equipped with a magnetic stirbar and septum was added Lawesson's reagent (527 mg, 1.3 mmol) under an atmosphere of nitrogen. This was stirred at room temperature for a period of 20 h. The solvent was then blown off under a gentle stream of nitrogen and the residue was directly purified via silica gel chromatography eluted with 30% EtOAc/hexanes to yield the product as a white solid (246 mg, 76%). 1H NMR (500 MHz, CDCl3, δ in ppm) 7.90 (m, 2H), 7.46 (m, 3H), 7.31 (d, J=8.8 Hz, 1H), 6.75 (d, J=8.8 Hz, 1H), 5.19 (d, J=7.9 Hz, 1H), 5.00 (dd, J=3.1, 7.9 Hz, 1H), 4.50 (m, 1H), 2.27 (s, 3H), 1.21 (d, J=6.3 Hz, 3H), 1.02 (s, 9H), 0.24 (s, 3H), 0.17 (s, 3H).

reactant | N′-((2R,3R)-3-(tert-butyldimethylsilyloxy)-2-(3-chloro-4-cyano-2-methylphenylamino)butanoyl)-benzohydrazide | 0.65 mmol, 326 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@H](C(=O)NNC(C1=CC=CC=C1)=O)NC1=C(C(=C(C=C1)C#N)Cl)C)C | C25H33ClN4O3Si
reactant | Lawesson's reagent | 1.3 mmol, 527 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-((1R,2R)-2-(tert-butyldimethylsilyloxy)-1-(5-phenyl-1,3,4-thiadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile | 246 mg, 76% | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@H](C=1SC(=NN1)C1=CC=CC=C1)NC1=C(C(=C(C#N)C=C1)Cl)C)C | C25H31ClN4OSSi
